US06426345B1
A mixture of 2-chloro-3-nitropyridine (8.5 g), 3-iodoaniline (12.5 g) and potassium carbonate (9.0 g) in 1,4-dioxane (100 ml) was stirred under reflux for 20 hours. After cooling, insoluble materials were removed by filtration and the filtrate was concentrated. The resultant solid was collected and washed with isopropyl ether to give 2-(3-iodophenylamino)-3-nitropyridine (3.88 g) as an orange solid.

reactant | 2-chloro-3-nitropyridine | 8.5 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-iodoaniline | 12.5 g | IC=1C=C(N)C=CC1 | C6H6IN
reactant | potassium carbonate | 9.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-(3-iodophenylamino)-3-nitropyridine | 3.88 g | IC=1C=C(C=CC1)NC1=NC=CC=C1[N+](=O)[O-] | C11H8IN3O2
